US08222416B2
To a solution of {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-acetic acid (75 mg, 0.17 mmol) and dimethylamine hydrochloride (43 mg, 0.53 mmol) in N,N-dimethylformamide (2 mL) and N-methylmorpholine (97 uL, 0.88 mmol) was added 1-hydroxybenzotriazole hydrate (110 mg, 0.81 mmol) followed by N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (68 mg, 0.35 mmol) in one portion. The mixture was stirred at 25° C. for 6 h. The mixture was diluted with ethyl acetate (100 mL), washed with a 1 N aqueous sodium bicarbonate solution, 1N aqueous hydrochloric acid solution, brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-N,N-dimethyl-acetamide (45 mg, 56%) as a light yellow solid: LC/MS m/e calcd for C25H31N3O3S [M+H]+ 454.61, observed 454.1; 1H NMR (400 MHz, CDCl3) δ ppm 1.18 (m, 2H), 1.48 (m, 2H), 1.56-1.85 (m, 5H, H), 2.10 (m, 1H), 2.23 (m, 1H), 2.99 (s, 3H), 3.04 (s, 3H), 3.10 (s, 3H), 3.81 (s, 2H), 4.29 (t, J=7.8 Hz, 1H), 6.35 (s, 1H), 7.50 (d, J=8.3 Hz, 2H), 7.86 (d, J=8.3 Hz, 2H), 7.96 (s, 1H), 8.02 (s, 1H), 10.99 (br, 1H).

reactant | {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-acetic acid | 0.17 mmol, 75 mg | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CC(=O)O)N1 | C23H26N2O4S
reactant | dimethylamine hydrochloride | 0.53 mmol, 43 mg | Cl.CNC
reactant | N-methylmorpholine | 0.88 mmol, 97 uL | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole hydrate | 0.81 mmol, 110 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.35 mmol, 68 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-N,N-dimethyl-acetamide | 45 mg, 56% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CC(=O)N(C)C)N1 | C25H31N3O3S
